US08895313B2
6-Methyl-2-{4-[(E)-2-phenylethenyl]phenyl}-1,3-benzothiazole
Prepared as described in the Alkene Formation section using diethyl 4-(6-methylbenzothiazol-2-yl)benzylphosphonate (0.30 g, 0.80 mmol) in dry THF (15 ml), potassium t-butoxide (0.10 g, 0.88 mmol) and benzaldehyde (0.085 g, 0.80 mmol) in dry THF (5 ml) to give the title compound (0.16 g, 60%) as a pale yellow solid after work-up and flash chromatography (2:1 Hexane/EtOAc).

reactant | diethyl 4-(6-methylbenzothiazol-2-yl)benzylphosphonate | 0.80 mmol, 0.30 g | CC1=CC2=C(N=C(S2)C2=CC=C(CP(OCC)(OCC)=O)C=C2)C=C1 | C19H22NO3PS
reactant | potassium t-butoxide | 0.88 mmol, 0.10 g | CC(C)([O-])C.[K+]
reactant | benzaldehyde | 0.80 mmol, 0.085 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | Hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 6-Methyl-2-{4-[(E)-2-phenylethenyl]phenyl}-1,3-benzothiazole | 0.16 g, 60% | CC1=CC2=C(N=C(S2)C2=CC=C(C=C2)\C=C\C2=CC=CC=C2)C=C1 | C22H17NS
